US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(3-cyano-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXLIV)
In a similar fashion to Compound CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (75.00 mg, 0.2553 mmol), 3-cyanobenzaldehyde (36.8 mg, 0.281 mmol), and Ammonium acetate (39.4 mg, 0.511 mmol) were reacted to produce 72.70 mg (63%) of the title compound. (300 MHz, DMSO-d6) 13.44 (s, 1H), 8.49 (s, 1H), 8.43 (d, J=8 Hz, 1H), 7.99 (s, 1H), 7.95 (d, J=8 Hz, 1H), 7.77 (m, 2H), 7.35 (d, J=9 Hz, 1H) 7.25 (s, 1H), 6.41 (m, 2H), 5.14 (t, J=17 Hz, 8.5 Hz, 1H), 2.91 (s, 1H), 2.81 (s, 1H), 2.63 (d, J=8 Hz, 1H), 2.23 (d, J=8 Hz, 1H), 1.39 (d, J=8 Hz, 1H). MS=405 (M+H), HPLC: 2.39 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.2553 mmol, 75.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 3-cyanobenzaldehyde | 0.281 mmol, 36.8 mg | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | Ammonium acetate | 0.511 mmol, 39.4 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(3-cyano-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 72.70 mg, 63% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC(=CC=C2)C#N)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C21H17ClN6O
